US07601702B2
Diphenyl(pyridin-2-yl)methanol (33)
A solution of 2-bromopyridine (5 g, 0.032 mol) in dry THF (150 mL) was cooled to −70° C. To this cooled solution was added n-BuLi (2.8 M, 12.4 mL, 0.034 mol) over a period of 20 min and allowed to stir for 2 h under N2 atmosphere. A solution of benzophenone (5.8 g, 0.032 mol) in dry THF (50 mL) was added to the solution at the same temperature over a period of 30 min. The reaction mixture was warmed slowly to RT and allowed to stir another 5 h at RT. The reaction mixture was concentrated under vacuum and the residue was washed with petroleum ether. The organic layer was filtered and the filtrate was concentrated under vacuum to give the title compound (8 g, 95%).

reactant | 2-bromopyridine | 0.032 mol, 5 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-BuLi | 0.034 mol, 2.8 M, 12.4 mL | [Li]CCCC
reactant | benzophenone | 0.032 mol, 5.8 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Diphenyl(pyridin-2-yl)methanol | 8 g, 95% | C1(=CC=CC=C1)C(O)(C1=NC=CC=C1)C1=CC=CC=C1 | C18H15NO
